US07728030B2
tert-Butyl N-[(2S)-3-oxo-4-phenyl-butan-2-yl]carbamate (72d)
Prepared as described in Example 6 from (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (600 mg, 2.58 mmol) and benzylmagnesium chloride (2.0 M in THF, 3.87 mL, 7.75 mmol). Yield 653 mg (96%).

reactant | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 2.58 mmol, 600 mg | CON(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | benzylmagnesium chloride | 7.75 mmol, 2.0 M, 3.87 mL | C(C1=CC=CC=C1)[Mg]Cl
product | tert-Butyl N-[(2S)-3-oxo-4-phenyl-butan-2-yl]carbamate | O=C([C@H](C)NC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C15H21NO3
